US07884110B2
4-Methyl-N-[5-methyl-2-(7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
Prepared from 496 mg (1.40 mmol) of N-(2-cyano-5-methyl-pyridin-3-yl)-4-methyl-3-trifluoromethyl-benzenesulfonamide and 70 mg (1.75 mmol) of 60% sodium hydride in 2 mL THF. The Grignard solution was prepared from 467 mg (1.82 mmol) of 95% 4-iodo-7H-pyrrolo[2,3-d]pyrimidine dissolved in 5 mL THF with 0.98 mL of 2 M phenylmagnesium chloride solution in THF and 0.98 mL of 2 M isopropylmagnesium chloride solution in THF added. The reaction yielded 340 mg of the final product as a yellow solid.

reactant | N-(2-cyano-5-methyl-pyridin-3-yl)-4-methyl-3-trifluoromethyl-benzenesulfonamide | 1.40 mmol, 496 mg | C(#N)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)C)C(F)(F)F)C | C15H12F3N3O2S
reactant | sodium hydride | 1.75 mmol, 70 mg | [H-].[Na+]
reactant | 4-iodo-7H-pyrrolo[2,3-d]pyrimidine | 1.82 mmol, 467 mg | IC=1C2=C(N=CN1)NC=C2 | C6H4IN3
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | phenylmagnesium chloride | 2 M, 0.98 mL | C1(=CC=CC=C1)[Mg]Cl
solvent | isopropylmagnesium chloride | 2 M, 0.98 mL | C(C)(C)[Mg]Cl
product | 4-Methyl-N-[5-methyl-2-(7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 340 mg | CC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)C)C(=O)C=1C2=C(N=CN1)NC=C2)C(F)(F)F | C21H16F3N5O3S
